US05481001
4-(N-n-Dodecylaminomethylidene)-3-methylisoxazol-5(4H)-one
3 g of triethyl orthoformate are added to 3.7 g of n-dodecylamine and 2 g of 3-methylisoxazol-5(4H)-one and the reaction mixture is heated at 60° C. for 20 hours. Thereupon, it is filtered over silica gel in hexane/ether/CH2Cl2 =1:1:3 and the desired product obtained is recrystallized in hexane. Yield 29%, m.p. 57° C., UV (EtOH): 311 nm (ε=18530).

reactant | triethyl orthoformate | 3 g | C(OCC)(OCC)OCC | C7H16O3
reactant | n-dodecylamine | 3.7 g | C(CCCCCCCCCCC)N | C12H27N
reactant | 3-methylisoxazol-5(4H)-one | 2 g | CC1=NOC(C1)=O | C4H5NO2
product | 4-(N-n-Dodecylaminomethylidene)-3-methylisoxazol-5(4H)-one | Yield 29% | C(CCCCCCCCCCC)NC=C1C(=NOC1=O)C | C17H30N2O2
